US04832736
4-(3-fluoro-5-trifluoromethylpyridin-2-yloxy)-phenol
A mixture of 16.5 g (0.15 mol) of hydroquinone, 19.1 g (0.3 mol) of potassium hydroxide (88%) in 600 ml of dimethylsulfoxide is stirred at room temperature under a nitrogen atmosphere until everything is dissolved. A solution of 13.7 g (0.075 mol) of 2,3-difluoro-5-trifluoromethyl-pyridine in 25 ml of dimethylsulfoxide is added dropwise at a temperature of 15°-20°. The reaction mixture is then stirred at room temperature for 24 hours. Then it is poured into ice/water and the mixture is acidified with hydrochloric acid, extracted with methylene chloride, washed with water, dried over magnesium sulfate, filtered and evaporated to dryness. The residue crystallizes in hexane/ethyl acetate to yield 14.5 g (71%) of white crystals, melting at 97°.

reactant | hydroquinone | 0.15 mol, 16.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium hydroxide | 0.3 mol, 19.1 g | [OH-].[K+]
reactant | 2,3-difluoro-5-trifluoromethyl-pyridine | 0.075 mol, 13.7 g | FC1=NC=C(C=C1F)C(F)(F)F | C6H2F5N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 600 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
product | 4-(3-fluoro-5-trifluoromethylpyridin-2-yloxy)-phenol | 14.5 g, 71% | FC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)O | C12H7F4NO2
